US04988694
6-Acetyl-3-amino-4-bromo-2-chloropyridine
15 g (88 mmol) of 6-acetyl-3-amino-2-chloropyridine are suspended in 88 ml of glacial acetic acid and 4.5 ml (88 mmol) of bromine are added dropwise. The mixture is subsequently stirred at room temperature for a further 30 minutes and then filtered off with suction and the filter cake is partitioned between NaHCO3 solution and CHCl3. The organic phase is separated off, dried with Na2SO4 and evaporated.

reactant | 6-acetyl-3-amino-2-chloropyridine | 88 mmol, 15 g | C(C)(=O)C1=CC=C(C(=N1)Cl)N | C7H7ClN2O
reactant | bromine | 88 mmol, 4.5 ml | BrBr | Br2
solvent | acetic acid | 88 ml | C(C)(=O)O | C2H4O2
product | 6-Acetyl-3-amino-4-bromo-2-chloropyridine | C(C)(=O)C1=CC(=C(C(=N1)Cl)N)Br | C7H6BrClN2O
